US09145392B2
4-Amino-6-{4-[1-[2-(cyclopropylmethyl-amino)-ethyl]-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile (“358”)
The title compound was prepared by stirring methanesulfonic acid 2-[2-[1-(6-amino-5-cyano-pyrimidin-4-yl)-piperidin-4-yl]-4-(4-fluoro-3-trifluoromethyl-phenyl)-imidazol-1-yl]-ethyl ester (85.0 mg; 0.15 mmol; 1.00 eq) in cyclopropylmethylamine (54.6 mg, 0.77 mmol; 5.0 eq) at ambient temperature. The reaction mixture was purified via flash chromatography using a gradient of 0-10% methanol in dichloromethane to give 4-Amino-6-{4-[1-[2-(cyclopropylmethyl-amino)-ethyl]-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile (32.7 mg; 0.06 mmol; 40.3%). LC-MS: (M+1=529, obsd.=529).

reactant | methanesulfonic acid 2-[2-[1-(6-amino-5-cyano-pyrimidin-4-yl)-piperidin-4-yl]-4-(4-fluoro-3-trifluoromethyl-phenyl)-imidazol-1-yl]-ethyl ester | 0.15 mmol, 85.0 mg, 1.00 eq | NC1=C(C(=NC=N1)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCOS(=O)(=O)C)C#N | C23H23F4N7O3S
reactant | cyclopropylmethylamine | 0.77 mmol, 54.6 mg, 5.0 eq | C1(CC1)CN | C4H9N
product | 4-Amino-6-{4-[1-[2-(cyclopropylmethyl-amino)-ethyl]-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile | 0.06 mmol, 32.7 mg, 40.3% | NC1=NC=NC(=C1C#N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCNCC1CC1 | C26H28F4N8
